US08445118B2
(30) Barium Catecholate (Molecular Weight: 245)
A solution of catechol (1.37 g, 12.5 mmol) and toluene (25 ml) was dehydrated by distilling 5 mL of the solution. Thereafter, barium(II) isopropoxide (3.20 g (12.5 mmol)) was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (catechol-barium complex) was greenish gray in color. The yield amount was 3.08 g (12.5 mmol), and the yield percentage was 100%. Catechol-barium complex was dissolved into acetylacetone until saturated, and then filtered to be used as a coating liquid.

reactant | catechol | 12.5 mmol, 1.37 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | barium(II) isopropoxide | 12.5 mmol, 3.20 g | CC([O-])C.[Ba+2].CC([O-])C
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | Barium Catecholate | C=1([O-])C([O-])=CC=CC1.[Ba+2] | InChI=1S/C6H6O2.Ba/c7-5-3-1-2-4-6(5)8;/h1-4,7-8H;/q;+2/p-2
